US08957074B2
Following general N—C coupling procedure 1, 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (127 mg, 0.433 mmol, 1.0 eq) was combined with 3-(6-Amino-2-methyl-pyridine-3-carbonyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (180 mg, 0.520 mmol, 1.2 eq) which gave 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-2-methyl-pyridine-3-carbonyl]-3,8-diazabicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (70 mg) in 27% yield. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.51 (s, 10H) 1.61 (t, J=8.34 Hz, 1H) 1.68-1.81 (m, 2H) 1.81-1.93 (m, 1H) 1.95-2.18 (m, 7H) 2.48 (br. s., 2H) 2.56 (d, J=8.59 Hz, 3H) 2.62 (br. s., 1H) 3.09 (d, J=7.58 Hz, 1H) 3.18 (s, 7H) 3.26-3.36 (m, 1H) 3.40 (br. s., 1H) 4.17 (br. s., 1H) 4.37 (br. s., 1H) 4.58 (d, J=13.14 Hz, 1H) 4.74-4.89 (m, J=9.09, 8.84, 8.72, 8.72 Hz, 1H) 6.48 (s, 1H) 7.50 (br. s., 1H) 8.11 (br. s., 1H) 8.38 (d, J=8.08 Hz, 1H) 8.76 (s, 1H). HRMS m/z, (M+H)+: 603.3417.

reactant | 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.433 mmol, 127 mg, 1.0 eq | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
reactant | 3-(6-Amino-2-methyl-pyridine-3-carbonyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.520 mmol, 180 mg, 1.2 eq | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C(=O)C=2C(=NC(=CC2)N)C | C18H26N4O3
product | 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-2-methyl-pyridine-3-carbonyl]-3,8-diazabicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 70 mg, 27% yield | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C(=O)C=2C(=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCC1)C | C32H42N8O4
